US08470805B2
Preparation of KMUP-1-Indomethacin Complex (12)
KMUP-1 (8.0 g) is dissolved in a mixture of ethanol (100 mL) and water (30 mL), to which indomethacin (7 g) dissolved in ethyl alcohol (150 mL) is added, and the mixture is reacted at 50° C. for 20 mins. The precipitate is obtained through filtering under room temperature, which is re-crystallized from methanol over night and then filtrated to obtain KMUP-1-Indomethacin complex (13.2 g).

reactant | KMUP-1 | 8.0 g | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl | C19H23ClN6O2
reactant | indomethacin | 7 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | ethyl alcohol | 150 mL | C(C)O | C2H6O
product | KMUP-1 Indomethacin | CN1C2=C(C(=O)N(C1=O)C)N(C=N2)CCN3CCN(CC3)C4=CC=CC=C4Cl.CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | InChI=1S/C19H23ClN6O2.C19H16ClNO4/c1-22-17-16(18(27)23(2)19(22)28)26(13-21-17)12-9-24-7-10-25(11-8-24)15-6-4-3-5-14(15)20;1-11-15(10-18(22)23)16-9-14(25-2)7-8-17(16)21(11)19(24)12-3-5-13(20)6-4-12/h3-6,13H,7-12H2,1-2H3;3-9H,10H2,1-2H3,(H,22,23)
